US08877744B2
Starting from (R)-2-methyl-propane-2-sulfinic acid [1-(2-fluoro-5-bromo-phenyl)-(E)-ethylidene]-amide and ethyl 2-bromo-2,2-difluoroacetate, the product (3R)-ethyl 3-((R)-1,1-dimethylethylsulfinamido)-2,2-difluoro-3-(2-fluoro-5-bromo-phenyl)butanoate was obtained as an orange oil. MS: m/z=446.1 [M+H]+.

reactant | (R)-2-methyl-propane-2-sulfinic acid [1-(2-fluoro-5-bromo-phenyl)-(E)-ethylidene]-amide | FC1=C(C=C(C=C1)Br)\C(\C)=N\[S@](=O)C(C)(C)C | C12H15BrFNOS
reactant | ethyl 2-bromo-2,2-difluoroacetate | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
product | (3R)-ethyl 3-((R)-1,1-dimethylethylsulfinamido)-2,2-difluoro-3-(2-fluoro-5-bromo-phenyl)butanoate | CC(C)([S@@](=O)N[C@](C(C(=O)OCC)(F)F)(C)C1=C(C=CC(=C1)Br)F)C | C16H21BrF3NO3S
